US06706716B2
8-{(1R)-2-[4-(2,4,5-Trifluorophenyl)piperazin-1-yl]-1-methylethyl}-8-azaspiro[4.5]decane-7,9-dione
A mixture of 1-(2,4,5-trifluorophenyl)piperazine (105 mg, 0.49 mmol) and (R)-8-(2-chloro-1-methylethyl)-8-azaspiro[4.5]decane-7,9-dione (105 mg, 0.43 mmol) was heated with stirring at 160° C. for 5 hours. The residue was dissolved in methanol, transferred to a preparative thin layer chromatographic plate (silica gel), and eluted with ethyl acetate/hexane (1:1). A band at Rf=0.8 was removed and rinsed with chloroform/methanol (4:1). The solvent was removed, giving the title compound as a pale yellow oil (86.2 mg, 0.20 mmol, 47%). 1H NMR (300 MHz, CDCl3) δ6.89 (ddd, 1H, J=11.7, 10.2, 7.5 Hz), 6.71 (dt, 1H, J=12.0, 8.1 Hz), 5.08-4.96 (m, 1H), 3.14 (dd, 1H, J=12.6, 10.5 Hz), 2.92 (t, 4H, J=4.7 Hz), 2.73-2.66 (m, 2H), 2.58 (s, 4H), 2.51-2.44 (m, 2H), 2.36 (dd, 1H, J=12.6, 5.4 Hz), 1.75-1.68 (m, 4H), 1.57-1.50 (m, 4H), 1.34 (d, 3H, J=6.9 Hz); ESI-MS m/z 424 (MH+). The title compound was dissolved in ether and precipitated by addition of 1N HCl in ether, giving a white solid: mp 231-235° C.

reactant | 1-(2,4,5-trifluorophenyl)piperazine | 0.49 mmol, 105 mg | FC1=C(C=C(C(=C1)F)F)N1CCNCC1 | C10H11F3N2
reactant | (R)-8-(2-chloro-1-methylethyl)-8-azaspiro[4.5]decane-7,9-dione | 0.43 mmol, 105 mg | ClC[C@@H](C)N1C(CC2(CCCC2)CC1=O)=O | C12H18ClNO2
solvent | methanol | CO | CH4O
product | 8-{(1R)-2-[4-(2,4,5-Trifluorophenyl)piperazin-1-yl]-1-methylethyl}-8-azaspiro[4.5]decane-7,9-dione | 0.20 mmol, 86.2 mg, 47% | FC1=C(C=C(C(=C1)F)F)N1CCN(CC1)C[C@@H](C)N1C(CC2(CCCC2)CC1=O)=O | C22H28F3N3O2
